US04138485
Preparation of N-benzylthiocarbonyl-L-phenylalanine:
9.9 G (0.06 mol) of L-phenylalanine and 5.8 g (0.055 mol) of sodium carbonate were dissolved in 150 ml of water, into which 3.0 g (0.05 mol) of carbonyl sulfide was blown at a temperature of from 10° to 15° C. in 30 minutes. The mixture was then stirred for 30 minutes. To the mixture was added 6.3 g (0.05 mol) of benzylchloride dissolved in 90 ml of acetone dropwise in 15 minutes and the mixture was stirred for 2 hours at room temperature. After completion of the reaction, acetone was removed off from the solution by evaporating under reduced pressure. The residue was washed with 100 ml of benzene and the aqueous layer was acidified with concentrated hydrochloric acid to liberate an oily substance which was extracted twice with ethylacetate (each 100 ml). The ethylacetate layer was washed twice with water (each 100 ml) and was dried over anhydrous sodium sulfate. After drying, the drying agent was filtered. The filtrate was evaporated under reduced pressure to give a syrup-like substance which were added with 20 ml of ether and 50 ml of n-hexane. The mixed solution was stood in cold place to obtain 11.6 g of white powdery substance.

reactant | L-phenylalanine | 0.06 mol | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sodium carbonate | 0.055 mol, 5.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbonyl sulfide | 0.05 mol, 3.0 g | C(=O)=S | COS
reactant | benzylchloride | 0.05 mol, 6.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 150 ml | O | H2O
solvent | acetone | 90 ml | CC(=O)C | C3H6O
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | ether | 20 ml | CCOCC | C4H10O
product | N-benzylthiocarbonyl-L-phenylalanine | C(C1=CC=CC=C1)C(=S)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO2S
